US06177419B1
38) Preparation of Bis(2-hydroxy-3,5-dimethylphenyl)-2,2′-bipyridine
Bis(2-hydroxy-3,5-dimethylphenyl)-2,2′-bipyridine was prepared by reaction of 2-hydroxy-3,5-dimethylphenylboronic acid (321 mg, 1.92 mmol) with 6,6-dibromo-2,2′-bipyridyl (260 mg, 0.82 mmol), sodium carbonate (2N solution, 2 ml) and tetrakis(triphenylphosphine) palladium (20 mg) in ethylene glycol dimethyl ether (8 ml) at reflux under nitrogen for 88 hours. The solid was filtered from the cooled reaction and washed with acetone and water to give the desired product as a yellow solid (220 mg, 68%); δH [21H6]-DMSO 8.39,(2H, d), 8.31,(2H, t), 8.10,(2H, 7.78,(2H, s), 7.10,(2H, s), 2.31,(6H, s), 2.24,(6H, s).

reactant | 2-hydroxy-3,5-dimethylphenylboronic acid | 1.92 mmol, 321 mg | OC1=C(C=C(C=C1C)C)B(O)O | C8H11BO3
reactant | 6,6-dibromo-2,2′-bipyridyl | 0.82 mmol, 260 mg | BrC1(C=CC=C(N1)C1=NC=CC=C1)Br | C10H8Br2N2
reactant | sodium carbonate | 2N, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 8 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Bis(2-hydroxy-3,5-dimethylphenyl)-2,2′-bipyridine | 220 mg, 68% | OC1=C(C=C(C=C1C)C)C1=C(C(=NC=C1)C1=NC=CC=C1)C1=C(C(=CC(=C1)C)C)O | C26H24N2O2
